### PR TITLE
feat(Algebra/IndEtale): fill basic lemmas

### PR DESCRIPTION
**Pull request by chrisflav**

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra polish

**Comment by chrisflav** [comment]
orchestra address review: Merge latest upstream/master into this branch and fix any possible build errors.

File: Proetale/Algebra/IndEtale.lean [hunk 1]
```diff
@@ -50,13 +54,56 @@ lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower
...
+  ext S
+  refine ⟨fun hS => ?_, fun hS => ?_⟩
+  · have hunder : IsFinitelyPresentable.{u} ((commAlgCatEquivUnder (.of R)).functor.obj S) :=
+      CommRingCat.isFinitelyPresentable_under _ _ (by convert hS using 1)
+    haveI : Fact (Cardinal.aleph0 : Cardinal.{u}).IsRegular := Cardinal.fact_isRegular_aleph0
+    exact (@isCardinalPresentable_iff_of_isEquivalence
+      (CommAlgCat.{u} R) _ S (Cardinal.aleph0 : Cardinal.{u}) this
+      (Under (CommRingCat.of.{u} R)) _
+      (commAlgCatEquivUnder (.of R)).functor inferInstance).mp hunder
+  · sorry
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Change this to an inequality again (LHS le RHS).

Comment (chrisflav) [reply Proetale/Algebra/IndEtale.lean]: Also, the lemma should not be `private`.

File: Proetale/Algebra/IndEtale.lean [hunk 2]
```diff
@@ -50,13 +54,56 @@ lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower
...
+
+/-- Étale `R`-algebras are finitely presented. -/
+private lemma etale_le_finitePresentation :
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]:
```suggestion
lemma etale_le_finitePresentation :
```

File: Proetale/Algebra/IndEtale.lean [hunk 3]
```diff
@@ -50,13 +54,56 @@ lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower
...
+  exact ⟨ι, ‹_›, ‹_›, P, fun i => (iff_ind_etale R _).mp (h i)⟩
+
+/-- Local isomorphisms of `R`-algebras are étale. -/
+lemma Algebra.IsLocalIso.etale [Algebra.IsLocalIso R S] : Algebra.Etale R S := by
+  rw [← RingHom.etale_algebraMap]
+  let s : Set S := {g | Algebra.IsStandardOpenImmersion R (Localization.Away g)}
+  have hs : Ideal.span s = ⊤ := Algebra.IsLocalIso.span_isStandardOpenImmersion_eq_top R S
+  exact RingHom.Etale.ofLocalizationSpanTarget (algebraMap R S) s hs (fun ⟨g, hg⟩ => by
+    obtain ⟨r, hr⟩ := hg.exists_away
+    haveI : Algebra.Etale R (Localization.Away g) := Algebra.Etale.of_isLocalizationAway r
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Don't use `haveI` in proofs.

File: Proetale/Algebra/IndEtale.lean [hunk 4]
```diff
@@ -50,13 +54,56 @@ lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower
...
+  rw [iff_ind_etale, ← ObjectProperty.ind_ind
+    (etale_le_finitePresentation R |>.trans (finitePresentation_eq_isFinitelyPresentable R).le)]
+  exact ⟨ι, ‹_›, ‹_›, P, fun i => (iff_ind_etale R _).mp (h i)⟩
+
+/-- Local isomorphisms of `R`-algebras are étale. -/
+lemma Algebra.IsLocalIso.etale [Algebra.IsLocalIso R S] : Algebra.Etale R S := by
+  rw [← RingHom.etale_algebraMap]
+  let s : Set S := {g | Algebra.IsStandardOpenImmersion R (Localization.Away g)}
+  have hs : Ideal.span s = ⊤ := Algebra.IsLocalIso.span_isStandardOpenImmersion_eq_top R S
+  exact RingHom.Etale.ofLocalizationSpanTarget (algebraMap R S) s hs (fun ⟨g, hg⟩ => by
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Use `refine` instead of nested `by` blocks.

File: Proetale/Algebra/IndEtale.lean [hunk 5]
```diff
@@ -102,15 +149,36 @@ lemma comp {T : Type u} [CommRing T] {g : S →+* T} {f : R →+* S} (hg : g.Ind
...
+  intro R S R' S' _ _ _ _ _ _ _ _ _ _ _ hpush hRS
+  rw [iff_ind_etale] at hRS ⊢
+  rw [← CommRingCat.isPushout_iff_isPushout] at hpush
+  exact (inferInstance : (MorphismProperty.ind CommRingCat.etale).IsStableUnderCobaseChange).1
+    hpush.flip hRS
+
+private lemma indEtale_respectsIso :
+    RingHom.RespectsIso
+      (fun {R S : Type u} [CommRing R] [CommRing S] (f : R →+* S) ↦ f.IndEtale) := by
+  rw [RingHom.toMorphismProperty_respectsIso_iff]
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Add a general lemma saying that any property of ring homs satisfying `RingHom.IsStableUnderBaseChange` also satisfies `RingHom.RespectsIso`. The proof goes via `RingHom.LocalizationAwayPreserves.respectsIso`.

Comment (chrisflav) [reply Proetale/Algebra/IndEtale.lean]: Then this specific lemma is no longer needed. Put the general lemma in the appropriate file.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Mathlib/RingTheory/LocalProperties/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,20 @@
...
+
+variable {P : ∀ {R S : Type u} [CommRing R] [CommRing S], (R →+* S) → Prop}
+
+/-- A property of ring homs that is stable under base change is preserved by localization away. -/
+lemma RingHom.IsStableUnderBaseChange.localizationAwayPreserves
+    (hP : RingHom.IsStableUnderBaseChange @P) :
+    RingHom.LocalizationAwayPreserves P := by
+  intro R S _ _ f r R' S' _ _ _ _ _ _ hf
+  have : IsLocalization ((Submonoid.powers r).map f) S' := by
+    rw [Submonoid.map_powers]; assumption
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/LocalProperties/Basic.lean]: This should not exist. Instead use `IsStableUnderBaseChange.localizationPreserves` and `LocalizationPreserves.away`.

**Comment by chrisflav** [comment]
orchestra address review
